US07858794B2
(a). 1-Fmoc-2-methoxy-4-nitroaniline
A solution of 2-methoxy-4-nitroaniline (3.0 g) and pyridine (1.6 ml) in THF (30 ml) was cooled to 0° C. FmocCl (5.07 g) was added in portions and after complete addition the ice-bath was removed and the mixture was stirred for 5 h. The THF was removed in vacuo and the residue dissolved in CH2Cl2 (175 ml). Methanol (ca 100 ml) was added and the CH2Cl2 was partly removed in vacuo until a precipitate formed. The mixture was allowed to stand for 1 h, after which time the crystals were collected by filtration and dried in vacuo to give the title compound.

reactant | 2-methoxy-4-nitroaniline | 3.0 g | COC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O3
reactant | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
reactant | FmocCl | 5.07 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-Fmoc-2-methoxy-4-nitroaniline | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1(N)C(C=C(C=C1)[N+](=O)[O-])OC | C22H20N2O5
